US09289719B2
Aerobic oxidation of NO in 1,1,3,3-tetramethylguanidinium chloride
1,1,3,-tetramethylguanidinium chloride ([TMGH]Cl) is a hygroscopic salt that melts around 200° C. in the absence of water. In the presence of water it forms a melt at room temperature. The salt was prepared by neutralization of 1,1,3,3-tetramethylguanidine with aqueous HCl. The solvent was removed and the product was recrystallized in ethanol. The sample used was in equilibrium with the atmosphere when it was loaded into the instrument analogous to previous examples. Before adding NO to the gas flow, the sample was given further time to equilibrate with the moisture from the air/water mixture. When NO was added to the flow it was observed, that water was consumed while the intensity of the bands in the areas around 1650 and 940 cm−1 started to increase. Due to overlap with N—H bending of the NH2 group on the [TMGH]+ ion it was not possible to follow the reaction.

reactant | 1,1,3,3-tetramethylguanidine | CN(C(=N)N(C)C)C | C5H13N3
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 1,1,3,3-tetramethylguanidinium chloride | [Cl-].CN(C(=[NH2+])N(C)C)C | InChI=1S/C5H13N3.ClH/c1-7(2)5(6)8(3)4;/h6H,1-4H3;1H
